US08629276B2
To a stirred mixture of 2-(trimethylsilyl)ethyl 4-(4-fluorophenyl)-3-(hydroxymethyl)-2-isopropyl-8,8-dimethyl-7,8-dihydro-1,6-naphthyridine-6(5H)-carboxylate (4.73 g, 10 mmol), N-methylmorpholine-N-oxide (1.29 g, 11.00 mmol) and 4 Å molecular sieves (2 g) in CH2Cl2 (100 mL) was added tetrapropylammonium perruthenate (0.09 g, 0.25 mmol) at rt. After 5 h, the reaction mixture was diluted with hexanes (100 mL), filtered through a plug of silica gel using 1:1 Et2O/hexanes (500 mL) and concentrated under reduced pressure to afford 2-(trimethylsilyl)ethyl 4-(4-fluorophenyl)-3-formyl-2-isopropyl-8,8-dimethyl-7,8-dihydro-1,6-naphthyridine-6(5H)-carboxylate (4.28 g, 91% yield) as a pale yellow pasty solid. 1H NMR (500 MHz, CDCl3) δ ppm: 9.79 (1H, s), 7.18 (4H, d, J=6.4 Hz), 4.24 (2H, br. s.), 4.16 (2H, t, J=8.1 Hz), 3.54 (2H, br. s.), 1.36 (6H, s), 1.28 (6H, d, J=6.7 Hz), 1.22-1.27 (1H, m), 0.93-1.05 (1H, m), 0.84-0.93 (1H, m), 0.02 (9H, br. s.). LCMS (M+H) calcd for C26H36N2O3Si: 471.25. found: 471.3.

reactant | 2-(trimethylsilyl)ethyl 4-(4-fluorophenyl)-3-(hydroxymethyl)-2-isopropyl-8,8-dimethyl-7,8-dihydro-1,6-naphthyridine-6(5H)-carboxylate | 10 mmol, 4.73 g | FC1=CC=C(C=C1)C1=C(C(=NC=2C(CN(CC12)C(=O)OCC[Si](C)(C)C)(C)C)C(C)C)CO | C26H37FN2O3Si
reactant | N-methylmorpholine-N-oxide | 11.00 mmol, 1.29 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrapropylammonium perruthenate | 0.25 mmol, 0.09 g | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 2-(trimethylsilyl)ethyl 4-(4-fluorophenyl)-3-formyl-2-isopropyl-8,8-dimethyl-7,8-dihydro-1,6-naphthyridine-6(5H)-carboxylate | 4.28 g, 91% yield | FC1=CC=C(C=C1)C1=C(C(=NC=2C(CN(CC12)C(=O)OCC[Si](C)(C)C)(C)C)C(C)C)C=O | C26H35FN2O3Si
